US07335660B2
b) 2-(6-Cyano-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl methanesulfonate
Prepared from 1-(2-hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carbonitrile, as described for the preparation of 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate.

reactant | 1-(2-hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carbonitrile | OCCC1OCCC2=C1C=CC(=C2)C#N | C12H13NO2
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
product | 2-(6-Cyano-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl methanesulfonate | CS(=O)(=O)OCCC1OCCC2=C1C=CC(=C2)C#N | C13H15NO4S
